US08304419B2
3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-2,5-dichlorobenzonitrile (0.65 g, 1.587 mmol) and sodium azide (0.114 g, 1.746 mmol) were combined in DMSO (7 mL) and stirred overnight at 25° C. Water was added to the reaction mixture to give a white precipitate. The reaction mixture was stirred for 15 min at room temperature, filtered, washed with water, and air dried to give 3-{[3-(azidomethyl)-6-chloro-2-fluorophenyl]oxy}-2,5-dichlorobenzonitrile (0.565 g, 1.521 mmol, 96% yield) as a white solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.02 (d, J=2.20 Hz, 1H), 7.50-7.63 (m, 2H), 7.31 (d, J=1.74 Hz, 1H), 4.61 (s, 2H).

reactant | 3-{[3-(bromomethyl)-6-chloro-2-fluorophenyl]oxy}-2,5-dichlorobenzonitrile | 1.587 mmol, 0.65 g | BrCC=1C(=C(C(=CC1)Cl)OC=1C(=C(C#N)C=C(C1)Cl)Cl)F | C14H6BrCl3FNO
reactant | sodium azide | 1.746 mmol, 0.114 g | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | DMSO | 7 mL | CS(=O)C | C2H6OS
product | 3-{[3-(azidomethyl)-6-chloro-2-fluorophenyl]oxy}-2,5-dichlorobenzonitrile | 1.521 mmol, 0.565 g, 96% yield | N(=[N+]=[N-])CC=1C(=C(C(=CC1)Cl)OC=1C(=C(C#N)C=C(C1)Cl)Cl)F | C14H6Cl3FN4O
